US09060519B2
A suspension of 1-[2-(3-pyridyl)thiazol-5-yl]ethanone oxime (isomer A, 0.15 g, 0.657 mmol) in acetonitrile (5 ml) was stirred at ambient temperature and treated with carbonate (0.648 g, 1.97 mmol) and 2-chloropyrimidine (0.119 g, 0.985 mmol) and allowed to stir at ambient temperature. After 2 days (80% conversion), the reaction mixture was concentrated in vacuo and the residue was stirred with ethyl acetate, filtered and the ethyl acetate concentrated in vacuo. Purification by flash chromatography eluting with ethyl acetate gave 1-[2-(3-pyridyl)thiazol-5-yl]-N-pyrimidin-2-yloxy-ethanimine (0.074 g, 38%) as a single isomer as slightly yellow crystals.

reactant | 1-[2-(3-pyridyl)thiazol-5-yl]ethanone oxime | N1=CC(=CC=C1)C=1SC(=CN1)C(C)=NO | C10H9N3OS
reactant | carbonate | 1.97 mmol, 0.648 g | C([O-])([O-])=O
reactant | 2-chloropyrimidine | 0.985 mmol, 0.119 g | ClC1=NC=CC=N1 | C4H3ClN2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-[2-(3-pyridyl)thiazol-5-yl]-N-pyrimidin-2-yloxy-ethanimine | 0.074 g, 38% | N1=CC(=CC=C1)C=1SC(=CN1)C(C)=NOC1=NC=CC=N1 | C14H11N5OS
